US06906063B2
To a solution of 2-amino-5-nitropyridine (0.555 g, 4 mmol) in THF (10 mL) was added 1 M NaHMDS in THF (8 mL, 8 mmol). The resulting dark red suspension was stirred for 15 min, followed by addition of a solution of Boc anhydride (0.87 mL, 3.8 mmol) in THF (5 mL). The reaction mixture was stirred at room temp for 21 hr, dilute with EtOAc, washed with 1 N HCl and brine, dried and concentrated in vacuo to give (tert-butoxy)-N-(5-nitro(2-pyridyl))carboxamide (0.63 g, 70%). ES-MS (M+H−tBu)+=184.

reactant | 2-amino-5-nitropyridine | 4 mmol, 0.555 g | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
reactant | NaHMDS | 1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Boc anhydride | 3.8 mmol, 0.87 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 8 mmol, 8 mL | C1CCOC1 | C4H8O
product | (tert-butoxy)-N-(5-nitro(2-pyridyl))carboxamide | 0.63 g, 70% | C(C)(C)(C)OC(=O)NC1=NC=C(C=C1)[N+](=O)[O-] | C10H13N3O4
